US08685986B2
11-(a) tert-Butyl[tert-butoxycarbonyl(6-{(pyridin-3-ylsulfonyl)[4-(thiazol-2-yl)benzyl]-aminomethyl}pyridin-2-yl)amino]acetate
Reaction and post-treatment were carried out in the same manner as in Example 2-(a) except for using tert-butyl(tert-butoxycarbonyl{6-[(pyridin-3-ylsulfonyl)aminomethyl]pyridin-2-yl}amino)acetate (126 mg, 0.263 mmol) obtained in Reference Example 12-(d) in place of N-[4-(thiazol-2-yl)benzyl]pyridin-3-ylsulfonamide, and using 4-(thiazol-2-yl)benzyl alcohol (49.7 mg, 0.260 mmol) obtained in Reference Example 4-(a) in place of tart-butyl[tert-butoxycarbonyl(6-hydroxymethylpyridin-2-yl)amino]acetate to afford the title compound (145 mg) as a white foam. (Yield: 85%)

reactant | tert-butyl(tert-butoxycarbonyl{6-[(pyridin-3-ylsulfonyl)aminomethyl]pyridin-2-yl}amino)acetate | 0.263 mmol, 126 mg | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)CNS(=O)(=O)C=1C=NC=CC1)C(=O)OC(C)(C)C)=O | C22H30N4O6S
reactant | N-[4-(thiazol-2-yl)benzyl]pyridin-3-ylsulfonamide | S1C(=NC=C1)C1=CC=C(CNS(=O)(=O)C=2C=NC=CC2)C=C1 | C15H13N3O2S2
reactant | 4-(thiazol-2-yl)benzyl alcohol | 0.260 mmol, 49.7 mg | S1C(=NC=C1)C1=CC=C(CO)C=C1 | C10H9NOS
reactant | butyl[tert-butoxycarbonyl(6-hydroxymethylpyridin-2-yl)amino]acetate | C(CCC)OC(CN(C1=NC(=CC=C1)CO)C(=O)OC(C)(C)C)=O | C17H26N2O5
product | tert-Butyl[tert-butoxycarbonyl(6-{(pyridin-3-ylsulfonyl)[4-(thiazol-2-yl)benzyl]-aminomethyl}pyridin-2-yl)amino]acetate | 145 mg, Yield: 85% | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)C(N)(CC1=CC=C(C=C1)C=1SC=CN1)S(=O)(=O)C=1C=NC=CC1)C(=O)OC(C)(C)C)=O | C32H37N5O6S2
